US07087579B2
To a suspension of 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-cyclopropylphenyl)methyl]-1H-pyrazole (56 mg) and cesium carbonate (23 mg) in N,N-dimethylformamide (1.5 mL) was added 2-iodopropane (0.043 mL) at 80° C., and the mixture was stirred for 35 minutes. To the reaction mixture was added water, and the mixture was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol). The obtained crude product was purified by preparative thin layer chromatography on silica gel (developing solvent: dichloromethane/methanol=7/1) to give 3-(β-D-glucopyranosyloxy)-5-methyl-1-isopropyl-4-[(4-cyclopropylphenyl)methyl]-1H-pyrazole )45 mg).

reactant | 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-cyclopropylphenyl)methyl]-1H-pyrazole | 56 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)C1CC1)C | C20H26N2O6
reactant | cesium carbonate | 23 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-iodopropane | 0.043 mL | IC(C)C | C3H7I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 3-(β-D-glucopyranosyloxy)-5-methyl-1-isopropyl-4-[(4-cyclopropylphenyl)methyl]-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NN(C(=C1CC1=CC=C(C=C1)C1CC1)C)C(C)C | C23H32N2O6
